US07615642B2
Step A: (3S)-1-({2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)pyrrolidin-3-amine
Following the same procedure in Example 112, step B, using tert-butyl[(3S)-1-({2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)pyrrolidin-3-yl]carbamate (2.8 g, 5 mmol) (see the following step B for preparation), and 4N HCl in dioxane (50 mL). Yield: 2.0 g (82%). 1H NMR (400 MHz, METHANOL-D4) δ 1.45-1.56 (m, 3 H), 1.63 (s, 9 H), 1.65-1.80 (m, 4 H), 1.94-2.05 (m, 2 H), 3.10-3.18 (m, 1 H), 3.33-3.42 (m, 2 H), 3.46-3.54 (m, 1 H), 3.54-3.59 (m, 2 H), 3.70-3.80 (m, 1 H), 4.53 (d, J=7.23 Hz, 2 H), 7.96 (d, J=8.98 Hz, 1 H), 8.11 (d, J=8.98 Hz, 1 H), 8.16 (s, 1 H); MS (APPI) (M+H)+=455.3; Anal. Calc. for C22H32F2N4O2S+2.5HCl+1.2H2O: C, 46.57; H, 6.56; N, 9.88. Found: C, 46.73; H, 6.55; N, 9.40.

reactant | tert-butyl[(3S)-1-({2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)pyrrolidin-3-yl]carbamate | 5 mmol, 2.8 g | C(C)(C)(C)OC(N[C@@H]1CN(CC1)S(=O)(=O)C1=CC2=C(N(C(=N2)C(C)(C)C)CC2CCC(CC2)(F)F)C=C1)=O | C27H40F2N4O4S
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | (3S)-1-({2-tert-butyl-1-[(4,4-difluorocyclohexyl)methyl]-1H-benzimidazol-5-yl}sulfonyl)pyrrolidin-3-amine | C(C)(C)(C)C1=NC2=C(N1CC1CCC(CC1)(F)F)C=CC(=C2)S(=O)(=O)N2C[C@H](CC2)N | C22H32F2N4O2S
